US09227966B2
A freshly prepared mixture of 30% H2O2 (3.9 g), formic acid (11 mL), and concentrated sulfuric acid (3 drops) was maintained for 1 hour at room temperature. The mixture was then cooled to 5° C. and treated with a solution of 5-bromo-2,3-dimethoxybenzaldehyde (4.15 g) in formic acid (25 mL). The mixture was maintained for 4 hours at 5° C. then placed in the 4° C. freezer overnight. Reaction mixture was then treated with a solution of Na2SO3 (3.4 g) in water (100 mL), stirred, and extracted with ethyl acetate (3×50 mL). The combined extracts were washed with 50 mL water followed by 50 mL brine and then organic layer was dried over sodium sulfate and concentrated under vacuum. The residue was dissolved in diethyl ether (20 mL) and after addition of 25% aqueous KOH (220 mL) was vigorously stirred under nitrogen. The organic layer was separated, the aqueous phase acidified to a pH of 3 with 2 N HCl and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated under vacuum to yield an oily residue which was purified by chromatography on silica in 3:1 hexane/ethyl acetate to provide 2,3-dimethoxy-5-bromophenol in 50% yield. 1H NMR (400 MHz) (CDCl3) δ 3.87 (s, 3H), 3.89 (s, 3H), 5.84 (s, 1H), 6.64 (d, J=4.0 Hz, 1H), 6.80 (d, J=4.0 Hz, 1H).

reactant | H2O2 | 3.9 g | OO | H2O2
reactant | 5-bromo-2,3-dimethoxybenzaldehyde | 4.15 g | BrC=1C=C(C(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | Na2SO3 | 3.4 g | [O-]S(=O)[O-].[Na+].[Na+]
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | formic acid | 25 mL | C(=O)O | CH2O2
solvent | water | 100 mL | O | H2O
solvent | formic acid | 11 mL | C(=O)O | CH2O2
product | 2,3-dimethoxy-5-bromophenol | 50% yield | COC1=C(C=C(C=C1OC)Br)O | C8H9BrO3
